US07820825B2
Step 2: 1-(4-((1H-Benzo[d]imidazol-2-yl)methyl)benzoyl)pyrrolidin-3-yl Methanesulfonate
A portion of [4-(1H-benzoimidazol-2-ylmethyl)-phenyl]-(3-hydroxy-pyrrolidin-1-yl)-methanone (1.00 g, 3.1 mmol) was dissolved in dichloromethane, treated with diisopropylethylamine (0.60 g, 4.6 mmol), cooled to 0° C., treated dropwise with a solution of methanesulfonyl chloride (0.49 g, 4.3 mmol) in dichloromethane, stirred at 0° C. for 10 min. and concentrated under vacuum to provide a solid residue. Purification of this residue by column chromatography (silica, chloroform:methanol 0→5%) gave the title product as a yellow solid (62%). 1H NMR (400 MHz, CDCl3): 7.58 (m, 2H), 7.56 (m, 4H), 7.22 (m, 2H), 5.27 (d, J=5.4 Hz 1H), 4.35 (s, 2H), 3.93 (s, 1H), 3.80 (s, 1H), 3.63 (m, 4H), 3.09 (m, 3H), 2.31 (m, 2H). [M+H] 400.

reactant | [4-(1H-benzoimidazol-2-ylmethyl)-phenyl]-(3-hydroxy-pyrrolidin-1-yl)-methanone | 3.1 mmol, 1.00 g | N1C(=NC2=C1C=CC=C2)CC2=CC=C(C=C2)C(=O)N2CC(CC2)O | C19H19N3O2
reactant | diisopropylethylamine | 4.6 mmol, 0.60 g | C(C)(C)N(CC)C(C)C | C8H19N
reactant | methanesulfonyl chloride | 4.3 mmol, 0.49 g | CS(=O)(=O)Cl | CH3ClO2S
solvent | dichloromethane | ClCCl | CH2Cl2
product | 1-(4-((1H-Benzo[d]imidazol-2-yl)methyl)benzoyl)pyrrolidin-3-yl Methanesulfonate | 62% | CS(=O)(=O)OC1CN(CC1)C(C1=CC=C(C=C1)CC1=NC2=C(N1)C=CC=C2)=O | C20H21N3O4S
